US08729530B2
A mixed solution of 2 g of 1,6-dibromopyrene, 2.3 g of 4-fluorophenylboronic acid, 7.0 g of tripotassium phosphate, 1.1 g of tetrabutylammonium bromide, 74 mg of palladium acetate and 50 ml of dimethylformamide was heated with stirring under a nitrogen gas flow at 130° C. for 6 hours. After cooling the solution to room temperature, 50 ml of water was injected, followed by extraction with 100 ml of dichloromethane. The organic layer was washed twice with 50 ml of water, dried over magnesium sulfate and then evaporated. The resultant solid was washed with 30 ml of methanol and then vacuum-dried to obtain 1.8 g of 1,6-bis(4-fluorophenyl)pyrene.

reactant | 1,6-dibromopyrene | 2 g | BrC1=CC=C2C=CC3=C(C=CC4=CC=C1C2=C34)Br | C16H8Br2
reactant | 4-fluorophenylboronic acid | 2.3 g | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | tripotassium phosphate | 7.0 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
catalyst | tetrabutylammonium bromide | 1.1 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | palladium acetate | 74 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 50 ml | O | H2O
product | 1,6-bis(4-fluorophenyl)pyrene | 1.8 g | FC1=CC=C(C=C1)C1=CC=C2C=CC3=C(C=CC4=CC=C1C2=C34)C3=CC=C(C=C3)F | C28H16F2
